* C:\Users\e1176752\Documents\VSCode\Projects\ES6343\LTSpice\8x20 - Five Capacitors.asc
C1 N009 0 {C} IC={V0}
L1 N009 N010 {L}
R1 EUT N010 {R}
R3 EUT 0 .05
C2 N007 0 {C} IC={V0}
L2 N007 N008 {L}
R2 EUT N008 {R}
C3 N005 0 {C} IC={V0}
L3 N005 N006 {L}
R4 EUT N006 {R}
C4 N003 0 {C} IC={V0}
L4 N003 N004 {L}
R5 EUT N004 {R}
C5 N001 0 {C} IC={V0}
L5 N001 N002 {L}
R6 EUT N002 {R}
.tran 0.0001
.param V0=3500 C=235u L=100n R=.1
.backanno
.end
